US08110579B2
Put 2 g (4 mmol) of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-{[(trifluoromethyl)sulphonyl]oxy}pyridine-2-carboxylate in 10 mL of anhydrous toluene in a screw-top bottle. To the solution, under argon, add successively 938 mg (4.78 mmol) of benzophenone hydrazone, 1.95 g (6 mmol) of caesium carbonate and 65 mg (0.08 mmol) of PdCl2 (dppf). Heat the reaction mixture for 3 h at 90° C. while stirring, then distribute in 100 mL of ether/water 1:1 mixture. Dry the organic phase over Na2SO4 and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a DCM/acetone gradient from 0 to 5% of acetone. After concentration under reduced pressure, we obtain 1.94 g of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-[2-(diphenylmethylidene)hydrazino]pyridine-2-carboxylate in the form of oil.

reactant | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-{[(trifluoromethyl)sulphonyl]oxy}pyridine-2-carboxylate | 4 mmol, 2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C21H15ClF3NO6S
reactant | benzophenone hydrazone | 4.78 mmol, 938 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | caesium carbonate | 6 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether water | 100 mL | CCOCC.O
catalyst | PdCl2 | 0.08 mmol, 65 mg | Cl[Pd]Cl
product | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-[2-(diphenylmethylidene)hydrazino]pyridine-2-carboxylate | 1.94 g, Yield=88% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H26ClN3O3
